US08877780B2
TEA (0.28 ml, 2 mmol) was added to a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.37 g, 1 mmol) and 1-chloro-3-isocyanato-2-methyl-benzene (0.13 ml, 1 mmol) in acetonitrile (10 mL) under nitrogen. The mixture was stirred at ambient temperature for 1 h, during which time it remained a suspension. The reaction was then monitored and determined to be complete. A 3.5% aqueous HCl solution (10 mL) was added, and the mixture stirred for 10 minutes. The solid was isolated by filtration, and the solid was washed with additional 3.5% aq. HCl (20 mL) and acetonitrile (20 mL), yielding 1-(3-chloro-2-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (400 mg, 91%). HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4 in H2O: tR=3.23 min (97%); mp. 252-254° C. 1H NMR (DMSO-d6) δ 1.93-2.08 (m, 5H, CHH), 2.25 (s, 3H, CH3), 2.33-2.47 (m, 1H, CHH), 2.61-2.64 (m, 1H, CHH), 2.82-3.01 (m, 1H, CHH), 4.25-4.55 (m, 4H, CH2+CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, NC h, 6.98-7.20 (m, 3H, Ar), 7.46 (d, J=7.9 Hz, 1H, Ar), 7.53 (s, 1H, NH), 7.67-7.83 (m, 2H, Ar), 8.02 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.62, 22.49, 31.20, 42.90, 47.12, 51.58, 120.32, 121.96, 123.01, 125.74, 126.78, 126.95, 130.35, 133.39, 139.61, 142.42, 144.61, 155.31, 167.93, 170.99, 172.86. LCMS MH=441. Anal Calcd for: C22H21ClN4O3+0.05HCl: C, 59.69; H, 4.79; N, 12.66; Cl, 8.41. found: C, 59.44; H, 4.57; N, 12.51; Cl, 8.43.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 1 mmol, 0.37 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | 1-chloro-3-isocyanato-2-methyl-benzene | 1 mmol, 0.13 ml | ClC1=C(C(=CC=C1)N=C=O)C | C8H6ClNO
reactant | HCl | 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3-chloro-2-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 400 mg, 91% | ClC=1C(=C(C=CC1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C | C22H21ClN4O4
